data/polar.json
{"reaction_name": "Carbodiimide-mediated coupling", "rsmi": "[CH3:5][N:8]=[C:10]=[N:9][CH3:6].[NH:3]([CH3:7])[H:12].[O:1]=[C:2]([CH3:4])[O:11][H:13]>>[CH3:5][N:8]([C:10]([N:9]([CH3:6])[H:13])=[O:11])[H:12].[O:1]=[C:2]([NH:3][CH3:7])[CH3:4]", "epd": [["LP-/Sigma+", [11], [10, 11]], ["Pi-/LP+", [8, 10], [8]], ["LP-/Sigma+", [8], [8, 12]], ["Sigma-/LP+", [3, 12], [3]], ["LP-/Sigma+", [3], [2, 3]], ["Pi-/LP+", [1, 2], [1]], ["LP-/Pi+", [1], [1, 2]], ["Sigma-/LP+", [2, 11], [11]], ["LP-/Pi+", [11], [10, 11]], ["Pi-/LP+", [9, 10], [9]], ["LP-/Sigma+", [9], [9, 13]], ["Sigma-/LP+", [11, 13], [11]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[c:3]1([CH:15]=[N+:10]=[N-:25])[cH:8][cH:6][cH:16][cH:7][cH:9]1.[cH:1]1[cH:2][cH:18][cH:5][c:11]2[c:4]1[N+:22]([CH3:13])=[CH:17][C:14]2=[CH:12][c:21]1[cH:19][cH:23][cH:26][cH:24][cH:20]1>>[cH:1]1[cH:2][cH:18][cH:5][c:11]2[c:4]1[n:22]([CH3:13])[cH:17][c:14]2[CH:12]([CH:15]([c:3]1[cH:8][cH:6][cH:16][cH:7][cH:9]1)[N+:10]#[N:25])[c:21]1[cH:19][cH:23][cH:26][cH:24][cH:20]1", "epd": [["LP-/Pi+", [25], [10, 25]], ["Pi-/Sigma+", [15, 10], [15, 12]], ["Pi-/Pi+", [12, 14], [14, 17]], ["Pi-/LP+", [17, 22], [22]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[c:1]1([P:16]([c:2]2[cH:9][cH:30][cH:5][cH:31][cH:10]2)([c:3]2[cH:11][cH:32][cH:6][cH:33][cH:12]2)=[CH:38][C:25]([O:18][CH2:14][CH3:40])=[O:21])[cH:7][cH:28][cH:4][cH:29][cH:8]1.[cH:13]1[cH:23][cH:15][c:17]2[c:24]([o+:19][c:22](-[c:37]3[cH:34][cH:26][cH:39][cH:27][cH:35]3)[cH:20][cH:36]2)[cH:41]1>>[c:1]1([P+:16]([c:2]2[cH:9][cH:30][cH:5][cH:31][cH:10]2)([c:3]2[cH:11][cH:32][cH:6][cH:33][cH:12]2)[CH:38]([C:25]([O:18][CH2:14][CH3:40])=[O:21])[CH:36]2[c:17]3[cH:15][cH:23][cH:13][cH:41][c:24]3[O:19][C:22]([c:37]3[cH:34][cH:26][cH:39][cH:27][cH:35]3)=[CH:20]2)[cH:7][cH:28][cH:4][cH:29][cH:8]1", "epd": [["Pi-/Sigma+", [38, 16], [38, 36]], ["Pi-/Pi+", [36, 20], [20, 22]], ["Pi-/LP+", [22, 19], [19]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH:1](=[C:7]([O:2][Si:19]([CH3:8])([CH3:9])[CH3:10])[CH2:11][CH3:18])[CH3:24].[cH:3]1[c:12]([CH+:27][c:13]2[cH:4][c:16]([F:22])[cH:26][c:17]([F:23])[cH:5]2)[cH:6][c:14]([F:20])[cH:25][c:15]1[F:21]>>[CH3:8][Si+:19]([CH3:9])[CH3:10].[CH:1]([C:7](=[O:2])[CH2:11][CH3:18])([CH3:24])[CH:27]([c:12]1[cH:3][c:15]([F:21])[cH:25][c:14]([F:20])[cH:6]1)[c:13]1[cH:4][c:16]([F:22])[cH:26][c:17]([F:23])[cH:5]1", "epd": [["Sigma-/Pi+", [2, 19], [7, 2]], ["Pi-/Sigma+", [1, 7], [1, 27]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[O:1]=[C:22]1[N:5]([CH3:19])[C:21](=[O:8])[N:6]([CH3:20])[C:23](=[O:2])[C:16]1=[CH:18][c:9]1[cH:25][cH:3][c:17]([O:14][CH3:12])[cH:4][cH:26]1.[cH:7]1[n:10][c:15]([O-:13])[cH:27][cH:11][cH:24]1>>[O-:1][c:22]1[n:5]([CH3:19])[c:21](=[O:8])[n:6]([CH3:20])[c:23](=[O:2])[c:16]1[CH:18]([c:9]1[cH:25][cH:3][c:17]([O:14][CH3:12])[cH:4][cH:26]1)[n:10]1[cH:7][cH:24][cH:11][cH:27][c:15]1=[O:13]", "epd": [["Pi-/LP+", [1, 22], [1]], ["Pi-/Sigma+", [7, 10], [10, 18]], ["LP-/Pi+", [13], [13, 15]], ["Pi-/Pi+", [16, 18], [16, 22]], ["Pi-/Pi+", [11, 24], [7, 24]], ["Pi-/Pi+", [15, 27], [11, 27]]]}
{"reaction_name": "Smiles rearrangement", "rsmi": "[cH:1]1[cH:5][cH:11][cH:7][c:4]([O-:15])[c:14]1[S:16]([c:6]1[cH:12][cH:2][cH:10][cH:3][cH:13]1)(=[O:8])=[O:9]>>[cH:1]1[cH:5][cH:11][cH:7][c:4]([O:15][c:6]2[cH:12][cH:2][cH:10][cH:3][cH:13]2)[c:14]1[S:16](=[O:8])[O-:9]", "epd": [["LP-/Sigma+", [15], [6, 15]], ["Sigma-/LP+", [6, 16], [16]], ["Pi-/LP+", [9, 16], [9]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:12]1[cH:3][n:9][c:14]2[c:15]([n+:5]([O-:4])[o:13][n:31]2)[cH:16]1)(=[O:17])[O-:26].[cH:2]1[cH:18][cH:27][c:8]([S:32](=[O:10])(=[O:11])[CH:20]=[C:29]2[CH:6]=[CH:23][C:30](=[N+:25]([O-:21])[O-:22])[CH:24]=[CH:7]2)[cH:28][cH:19]1>>[N+:1](=[C:12]1[CH:3]=[N:9][c:14]2[c:15]([n+:5]([O-:4])[o:13][n:31]2)[CH:16]1[CH:20]([c:29]1[cH:6][cH:23][c:30]([N+:25](=[O:21])[O-:22])[cH:24][cH:7]1)[S:32]([c:8]1[cH:27][cH:18][cH:2][cH:19][cH:28]1)(=[O:10])=[O:11])([O-:17])[O-:26]", "epd": [["LP-/Pi+", [21], [25, 21]], ["Pi-/Pi+", [30, 25], [24, 30]], ["Pi-/Pi+", [7, 24], [29, 7]], ["Pi-/Sigma+", [20, 29], [20, 16]], ["Pi-/Pi+", [16, 12], [12, 1]], ["Pi-/LP+", [1, 17], [17]]]}
